US08293735B2
4-Bromo-2-trifluoromethyl-1H-indole
A solution of N-(3-bromo-2-bromomethyl-phenyl)-2,2,2-trifluoro-acetamide (2.9 g) in toluene (40 mL) was treated with triphenylphosphine (2.3 g, 8.7 mmol). The solution was stirred at 60° C. for 2 h, then cooled to 0° C. The beige solid that precipitated was collected by filtration, washed with diethyl ether, then dissolved in DMF (60 mL), and heated to reflux under nitrogen for 16 h. The reaction mixture was evaporated to dryness, then partitioned between EtOAc and a sat, sodium carbonate solution. The organic layer was isolated, dried (MgSO4), and purified by column chromatography to give the title compound as a yellow solid (1.55 g, 84%).

reactant | N-(3-bromo-2-bromomethyl-phenyl)-2,2,2-trifluoro-acetamide | 2.9 g | BrC=1C(=C(C=CC1)NC(C(F)(F)F)=O)CBr | C9H6Br2F3NO
reactant | triphenylphosphine | 8.7 mmol, 2.3 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
product | 4-Bromo-2-trifluoromethyl-1H-indole | 1.55 g, 84% | BrC1=C2C=C(NC2=CC=C1)C(F)(F)F | C9H5BrF3N
